US04433149
To a solution of ethyl P-methyl-2-nitro-5-chlorophenylphosphinate (20.0 mmol) and ethanethiol (60.0 mmol) in dimethylsulfoxide (20 ml) is added a solution of sodium hydroxide (40.0 mmol) in 1 ml of water. The mixture is warmed to 60° overnight, after which it is poured into water and extracted with ether. The aqueous solution is acidified, extracted with methylene chloride, dried and evaporated to give P-methyl-2-nitro-5-ethylthiophenylphosphinic acid, which is then treated with diazomethane in methanol to give methyl P-methyl-2-nitro-5-ethylthiophenylphosphinate.

reactant | ethyl P-methyl-2-nitro-5-chlorophenylphosphinate | 20.0 mmol | CP(OCC)(=O)C1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C9H11ClNO4P
reactant | ethanethiol | 60.0 mmol | C(C)S | C2H6S
reactant | sodium hydroxide | 40.0 mmol | [OH-].[Na+]
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | water | 1 ml | O | H2O
product | P-methyl-2-nitro-5-ethylthiophenylphosphinic acid | CP(O)(=O)C1=C(C=CC(=C1)SCC)[N+](=O)[O-] | C9H12NO4PS
